US08455475B2
9-(4-tert-Butylpiperazin-1-yl)-3-azaspiro[5.5]undecane trihydrochloride
Hydrogen chloride in methanol (1.25 mol/l, 5.3 ml) was added to tert-butyl 9-(4-tert-butylpiperazin-1-yl)-3-azaspiro[5.5]undecane-3-carboxylate (0.26 g, 0.661 mmol) and the mixture was refluxed for 1 h. The solvent was removed in vacuo, the residue was taken up in ethanol (10 ml) and the mixture was stirred for 15 min. Diethyl ether (50 ml) was added and the mixture was then stirred at room temperature. The precipitate was filtered out with suction, washed with diethyl ether and dried in vacuo. Yield: 0.23 g (86%)

reactant | Hydrogen chloride | Cl | ClH
reactant | tert-butyl 9-(4-tert-butylpiperazin-1-yl)-3-azaspiro[5.5]undecane-3-carboxylate | 0.661 mmol, 0.26 g | C(C)(C)(C)N1CCN(CC1)C1CCC2(CCN(CC2)C(=O)OC(C)(C)C)CC1 | C23H43N3O2
solvent | methanol | 1.25 mol/l, 5.3 ml | CO | CH4O
product | 9-(4-tert-Butylpiperazin-1-yl)-3-azaspiro[5.5]undecane trihydrochloride | Cl.Cl.Cl.C(C)(C)(C)N1CCN(CC1)C1CCC2(CCNCC2)CC1 | InChI=1S/C18H35N3.3ClH/c1-17(2,3)21-14-12-20(13-15-21)16-4-6-18(7-5-16)8-10-19-11-9-18;;;/h16,19H,4-15H2,1-3H3;3*1H
